Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Clarithromycin
 
Attending: ___.
 
Chief Complaint:
blood and mucous in stools
 
Major Surgical or Invasive Procedure:
FLEXIBLE SIGMOIDOSCOPY

 
History of Present Illness:
Pt is a ___ with h/o constipation hemorrhoids, diverticulosis 
seen by GI ___ years ago for constipation and Rx for Metamucil 
and miralax now presenting with 3 days of worsenieng 
hematochezia and mucous in stools. These are new smnptoms with 
patient and accompanied by mild abdominal pain although this has 
since resolved. pt first presented to PCP and was told to 
contact GI doctor given that stool ___ was positive. Pt 
contacted GI doctor ___ not physically see GI doctor) and was 
told to come into the ED. In the ED, vitals were stable but 
notable for midl WBC 12.2 but H&H within normal range. Pt also 
noted to have hypokalemia with K of 2.8 and attributed to 
chlorthalidone use while having low po intake.

CT with oral and no IV contrast (___ daughter have 
life-threatening reaction to IV contrast) did not show any 
concerning findings.

Pt noted that GI team would do urgent colonoscopy despite being 
stable and admitted to the floors. Pt with persistent 
hematochezia and mucous in stool while on floor but otherwise 
does not note gross diarrhea or constipation, perhaps if 
anything stools are slightly hard and formed.

Never fevers/chills. No weight loss. No abdominal pain while on 
floors, No nausea, vomiting although noted to have low po 
intake. 

 
Past Medical History:
 - HTN  
 - Mitral regurgitation  
 - S/p TIA  
 - Uterine fibroids  
 - Asthma  
 - H/o abnormal pap smear  
 - H/o breast mass  
 - Fatty Liver  
 - Fibromyalgia  
 - Prior tonsillectomy and adenoidectomy  
 
Social History:
___
Family History:
grandmother had had ovarian cancer  

 
Physical Exam:
ADMISSION PHYSICAL EXAM

 Vital Signs: 98.5 PO 151 / 88 73 18 97 ra  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, obese, no organomegaly, no rebound 
or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: alert, awake, speech fluent, moves all extremities, 
follows commands  

DISCHARGE PHYSICAL EXAM
 Vital Signs: 99 ___ 61-70s 18 ___ r.a.
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, obese, no organomegaly, no rebound 
or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: alert, awake, speech fluent, moves all extremities, 
follows commands  

 
Pertinent Results:
ADMISSION LABS
___ 06:17PM   WBC-8.7 RBC-4.20 HGB-12.4 HCT-36.3 MCV-86 
MCH-29.5 MCHC-34.2 RDW-13.0 RDWSD-39.8
___ 06:17PM   NEUTS-64.2 ___ MONOS-8.3 EOS-0.7* 
BASOS-0.2 IM ___ AbsNeut-5.58 AbsLymp-2.26 AbsMono-0.72 
AbsEos-0.06 AbsBaso-0.02
___ 06:17PM   GLUCOSE-116* UREA N-22* CREAT-1.1 SODIUM-134 
POTASSIUM-2.9* CHLORIDE-92* TOTAL CO2-26 ANION GAP-19
___ 06:17PM   ALT(SGPT)-15 AST(SGOT)-18 ALK PHOS-57 TOT 
BILI-1.3
___ 06:17PM   ALBUMIN-4.2 CALCIUM-9.3 PHOSPHATE-3.2 
MAGNESIUM-1.9

DISCHARGE LABS

IMAGING
CT ABD/PELVIS ___
IMPRESSION:  
  
1.  No acute abdominal or intrapelvic infectious process.  
Normal appendix. 
  
2.  Fatty liver. 
  
3.  Under-rotated right kidney. 

 
Brief Hospital Course:
___ y.o F with HTN, hemorrhoids, constipation, known 
diverticulosis, presenting with small volume of BRBPR and mucous 
stools.

# Abdominal pain, BRBPR: 
The patient presented with BRBPR and mucus in stool in setting  
of constipation and hemorrhoids.  She also reported  
non-compliance with her home bowel regimen. She was seen by GI  
and had a flex sig which showed diverticula and hemorrhoids. 
Her H/H remained stable. She was encouraged to follow her bowel 
regimen. 

 # Hypokalemia: Patient presenting with significant hypokalemia 
to 2.8, likely in the setting of chlorthalidone use, poor oral 
intake and non-compliance with potassium supplements. Pt to 
continue home chlorthalidone held in the setting of hypokalemia 
but also continue potassium pills. Pt to follow up with primary 
care physician to recheck potassium.

 # Hypertension:  
Initially held chlorthalidone held in the setting of 
hypokalemia, but resumed on discharge.
 
# Asthma: She was continued on home albuterol as needed.  
 - Continue Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea  

# HLD: She was continued on home atorvastatin.  
 - Continue atorvastatin 10 mg tablet  

TRANSITIONAL
===============
-Pt to have CBC and potassium checked by PCP. Consider 
adjustment of BP med if potassium is still low on chlorthalidone 
and potassium pills
-Pt to be on Miralax standing bid. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Psyllium Powder 1 PKT PO TID:PRN constipation 
2. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea 
4. Ascorbic Acid ___ mg PO DAILY 
5. ammonium lactate 12 % topical DAILY:PRN 
6. Aspirin 81 mg PO DAILY 
7. Atorvastatin 10 mg PO QPM 
8. Chlorthalidone 25 mg PO DAILY 
9. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
10. Potassium Chloride 10 mEq PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 
12. calcium carbonate-vit D3-min 600 mg calcium- 400 unit oral 
BID 
13. Cetirizine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Potassium Chloride 20 mEq PO DAILY 
Hold for K > 5 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea  
3.  ammonium lactate 12 % topical DAILY:PRN  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  calcium carbonate-vit D3-min 600 mg calcium- 400 unit oral 
BID  
8.  Cetirizine 10 mg PO DAILY:PRN allergies  
9.  Chlorthalidone 25 mg PO DAILY  
10.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
11.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
12.  Potassium Chloride 10 mEq PO DAILY  
13.  Psyllium Powder 1 PKT PO TID:PRN constipation  
14.  Vitamin D ___ UNIT PO DAILY  
15.Outpatient Lab Work
ICD 10: R19.7 diarrhea 
Please check a chem 10 on ___
ATTN: ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
diverticula
hemorrhoids

SECONDARY DIAGNOSIS:
hypokalemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted for blood and mucus in your stools. Your blood 
counts were found to be stable while you were hospitalized. 
However, your potassium was found to be low. You underwent a 
flexible sigmoidoscopy while you were here which showed 
hemorrhoids and diverticula. 

You are to continue your potassium pills while taking your blood 
pressure medicine as to not drop your potassium levels. You are 
to follow-up with your primary care doctor to check your 
potassium and blood levels.

If you have worsening symptoms of constipation, diarrhea, blood 
or mucous in your stools, please return for further evaluation.

It was a pleasure taking care of you at ___!

Your ___ Team
 
Followup Instructions:
___